US08791129B2
tert-Butyl 5-iodo-2,3-dioxo-2,3-dihydroindole-1-carboxylate (“2”)
50 g of 5-iodo-1H-indole-2,3-dione are dissolved in 500 ml of THF, cooled to 10° C., and 43.97 g of di-tert-butyl dicarbonate are added. The mixture is stirred at 23° C. for 16 h and subsequently evaporated to dryness in vacuo. The residue is taken up in petroleum ether and THF and crystallised at −20° C. The resultant yellow solid is filtered and dried at 30° C. in a drying cabinet. Yield: 62.41 g of tert-butyl 5-iodo-2,3-dioxo-2,3-dihydroindole-1-carboxylate; LC-MS retention time: 2.11 min.

reactant | 5-iodo-1H-indole-2,3-dione | 50 g | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | di-tert-butyl dicarbonate | 43.97 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | tert-Butyl 5-iodo-2,3-dioxo-2,3-dihydroindole-1-carboxylate | IC=1C=C2C(C(N(C2=CC1)C(=O)OC(C)(C)C)=O)=O | C13H12INO4
